US06071925
6-Chloro-2-tetralone (22.7 mmol) was dissolved in toluene (210 ml). 1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one (22.7 mmol) and molecular sieves (10 g) were added and the mixture was refluxed for 6 h. After cooling the molecular sieves were removed by filtration and washed with methylene chloride. Evaporation of the filtrate yielded a residue which was dissolved in THF (90 ml) and methanol (10 ml). Sodium cyanoborohydride (22.7 mmol) was added to the solution and the pH was adjusted to 4. The mixture was stirred for 4 h at room temperature. Ethyl acetate was added and the organic phase was washed with 2 N sodium hydroxide and brine. The organic phase was concentrated and chromatographed over silica gel (ethyl acetate). Addition of HCl in ethanol to a solution of the product in ethyl acetate/ethanol yielded 8-(6-chloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza--spiro[4.5]decan-4-one hydrochloride (4.0 g, 41%) as colorless solid, m.p. 288-290° C.

reactant | 6-Chloro-2-tetralone | 22.7 mmol | ClC=1C=C2CCC(CC2=CC1)=O | C10H9ClO
reactant | 1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 22.7 mmol | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | Sodium cyanoborohydride | 22.7 mmol | C(#N)[BH3-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 8-(6-chloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza--spiro[4.5]decan-4-one hydrochloride | 4.0 g, 41% | Cl.ClC=1C=C2CCC(CC2=CC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C23H26ClN3O.ClH/c24-19-8-6-18-15-21(9-7-17(18)14-19)26-12-10-23(11-13-26)22(28)25-16-27(23)20-4-2-1-3-5-20;/h1-6,8,14,21H,7,9-13,15-16H2,(H,25,28);1H
